US05994368
To a solution of 2,6-dichloro-3-(methoxymethoxy)benzyl alcohol (1.1 g) and triethylamine (563 mg) in dichloromethane was added a solution of methanesulfonyl chloride (585 mg) in dichloromethane at <20° C. over 5 minutes under nitrogen atmosphere, and the mixture was stirred at the same temperature for 30 minutes and under ice-cooling for 30 minutes. The reaction mixture was washed with saturated sodium bicarbonate solution and brine, dried over magnesium sulfate and evaporated in vacuo to give 1,3-dichloro-2-methanesulfonyloxymethyl-4-(methoxymethoxy)benzene.

reactant | 2,6-dichloro-3-(methoxymethoxy)benzyl alcohol | 1.1 g | ClC1=C(CO)C(=CC=C1OCOC)Cl | C9H10Cl2O3
reactant | triethylamine | 563 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 585 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1,3-dichloro-2-methanesulfonyloxymethyl-4-(methoxymethoxy)benzene | ClC1=C(C(=C(C=C1)OCOC)Cl)COS(=O)(=O)C | C10H12Cl2O5S
